US04749687
A solution of 14.05 g. (58.5 mmoles) of N-(t-butyloxycarbonyl) -L-isoleucine hemihydrate (Chemalog) in 500 ml. of methylene chloride was dried (MgSO4), filtered and treated with 6.43 ml. (5.92 g., 58.5 mmoles) of N-methyl-morpholine. The resulting mixture was chilled to -16° C. and then treated with 7.59 ml. (7.99 g., 58.5 mmoles) of isobutylchloroformate at such a rate that the temperature of the exothermic reaction did not exceed -10° C. After 10 minutes of additional stirring following completion of this addition, a solution of 24.8 g. (58.0 mmoles) of L-phenylalanine benzyl ester p-toluenesulfonate and 6.43 ml. (5.92 g., 58.5 mmoles) of N-methyl-morpholine in 50 ml. of methylene chloride was added dropwise to the reaction mixture at such a rate that the temperature of the exothermic reaction did not exceed -10° C. When this addition was complete, the reaction mixture was allowed to warm to room temperature over the course of an hour, and was then washed with 5% aqueous HCl solution (2 ×300 ml.) and 10% aqueous K2CO3 solution (2 ×300 ml.). The resulting organic layer was dried (MgSO4) and evaporated to afford 27.40 g. of a white solid. Trituration in hexane gave 24.97 g. of purified [N-(t-butyloxycarbonyl) -L-isoleucine]-L-phenylalanine benzyl ester [42% yield; m.p. 131-132° C., Rf =0.43 in ether:ethyl acetate,1:1; 1H-NMR (CDCl3 ) delta: 0.78-0.9 (broad d, 6H), 1.43 (s, 9H), 3.08 (d, J=6), 3.87 (dd, J=5, 9, 1H), 4.75-5.1 (m, 1H), 5.06 (s, 2H), 6.3 (d, J=9, 1H), 7.0-7.3 (m, 11H)]. A solution of 12.50 g. (25.7 mmoles) of [N-(t-butyloxycarbonyl)-L-isoleucine]-Lphenylalanine benzyl ester in 125 ml. of 4N HCl in dioxane was stirred for 2 hours at room temperature while protected from atmospheric moisture with a CaCl2 tube. The solvent was then removed under reduced pressure and the residue triturated in ether to afford 11.16 g. of product as a white solid [m.p. 178-179° C.] (dec); Rf = 0.73 in BuOH-H2 -AcOH, 4:1:1; (1H-NMR (CD3OD) delta: 0.9-1.1 (m, 6H), 3.1-3.0 (m, 2H), 3.73 (d, J=5, lH), 5.08 (s, lH), 7.18 (s, 5H), 7.24 (s, 5H).

reactant | N-(t-butyloxycarbonyl) -L-isoleucine hemihydrate | 58.5 mmoles | O.C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O.C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O
reactant | N-methyl-morpholine | 58.5 mmoles, 5.92 g | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 58.5 mmoles, 7.99 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | L-phenylalanine benzyl ester p-toluenesulfonate | 58.0 mmoles | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-methyl-morpholine | 58.5 mmoles, 5.92 g | CN1CCOCC1 | C5H11NO
solvent | hexane | CCCCCC | C6H14
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [N-(t-butyloxycarbonyl) -L-isoleucine]-L-phenylalanine benzyl ester | 42% yield | C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=CC=C1)=O.C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | InChI=1S/C16H17NO2.C11H21NO4/c17-15(11-13-7-3-1-4-8-13)16(18)19-12-14-9-5-2-6-10-14;1-6-7(2)8(9(13)14)12-10(15)16-11(3,4)5/h1-10,15H,11-12,17H2;7-8H,6H2,1-5H3,(H,12,15)(H,13,14)/t15-;7-,8-/m00/s1
